US06110929
A Parr flask was charged with methanol (40 mL), ammonium hydroxide (10 mL), 3-nitro-7-(trifluoromethyl)-4-quinolinol (12.8 g, 49.6 mmol) and palladium on carbon (1.0 g of 10%). The mixture was placed on a Parr apparatus under a hydrogen atmosphere at 40 psi (2.8 Kg/cm2) for 4 hours. The mixture was filtered and the catalyst was washed with methanol and dichloromethane. The combined organics were concentrated under vacuum to provide a green solid. The solid was dissolved in methanol and then combined with 1 N hydrochloric acid in anhydrous diethyl ether (150 mL). A precipitate formed almost immediately. The reaction mixture was allowed to stir for 16 hours. The precipitate was isolated by filtration, washed with diethyl ether and then dried in a vacuum oven at 80° C. to provide 9.3 g of 3-amino-7-(trifluoromethyl)-4-quinolinol hydrochloride as an off-white solid.

reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | 3-nitro-7-(trifluoromethyl)-4-quinolinol | 49.6 mmol, 12.8 g | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1O)C(F)(F)F | C10H5F3N2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | methanol | 40 mL | CO | CH4O
product | 3-amino-7-(trifluoromethyl)-4-quinolinol hydrochloride | 9.3 g | Cl.NC=1C=NC2=CC(=CC=C2C1O)C(F)(F)F | InChI=1S/C10H7F3N2O.ClH/c11-10(12,13)5-1-2-6-8(3-5)15-4-7(14)9(6)16;/h1-4H,14H2,(H,15,16);1H
